US06458771B1
A slurry of NaH (1.02 g, 25.4 mmol) in DMF (50 mL) at room temperature was treated with 4-azabenzimidazole (2.90 g, 24.4 mmol). After 10 min., the reaction mixture was treated with a solution of (E)-N-(4-bromo-2-butenyl)phthalimide (5.7 g, 20.3 mmol) in DMF (5 mL) over 30 min. The reaction mixture was allowed to stir for 1 h, then quenched by careful addition of water (5 mL) and the reaction mixture was concentrated in vacuo. The resulting residue was diluted with CH2Cl2 (50 mL), washed with brine (2×25 mL), dried (MgSO4), and concentrated in vacuo to afford an off-white solid. Purification by flash chromatography (ethyl acetate containing 3% NH4OH) afforded 2.08 g of 3-[(E)-4-phthalimido-2-butenyl]-3H-imidazo[4,5-b]pyridine. Changing the chromatography solvent to 5% methanol/ethyl acetate containing 5% NH4OH afforded 1.66 g of 1-[(E)-4-phthalimido-2-butenyl]-1H-imidazo[4,5-b]pyridine; mass (CI) m/z=319 (M+H).

reactant | NaH | 25.4 mmol, 1.02 g | [H-].[Na+]
reactant | 4-azabenzimidazole | 24.4 mmol, 2.90 g | N1=CNC2=C1C=CC=N2 | C6H5N3
reactant | (E)-N-(4-bromo-2-butenyl)phthalimide | 20.3 mmol, 5.7 g | BrC/C=C/CN1C(C=2C(C1=O)=CC=CC2)=O | C12H10BrNO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[(E)-4-phthalimido-2-butenyl]-3H-imidazo[4,5-b]pyridine | 2.08 g | C1(C=2C(C(N1C/C=C/CN1C=NC=3C1=NC=CC3)=O)=CC=CC2)=O | C18H14N4O2
